US06906095B2
Preparation of 6-chloro-1-(phenylsulfonyl)-4-oxo-1,2,3,4-tetrahydrocarbazole
A solution of 6-chloro-4-oxo-1,2,3,4-tetrahydrocarbazole (109 mg, 0.5 mmol) in THF is treated with NaH (60 mg, 60% dispersion in mineral oil, 1.5 mmol), stirred for 30 min., treated with phenylsulfonyl chloride (132 mg, 0.5 mmol), shaken for 8 h and concentrated in vacuo. The resultant residue is dissolved in ethyl acetate, washed with water and reconcentrated in vacuo to afford the title product which is used as is in Example 134.

reactant | 6-chloro-4-oxo-1,2,3,4-tetrahydrocarbazole | 0.5 mmol, 109 mg | ClC=1C=C2C=3C(CCCC3NC2=CC1)=O | C12H10ClNO
reactant | NaH | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | phenylsulfonyl chloride | 0.5 mmol, 132 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | 6-chloro-1-(phenylsulfonyl)-4-oxo-1,2,3,4-tetrahydrocarbazole | ClC=1C=C2C=3C(CCC(C3NC2=CC1)S(=O)(=O)C1=CC=CC=C1)=O | C18H14ClNO3S
